US06277990B1
A saturated solution of sodium bicarbonate (5 mL) was added to a solution of 2-amino-9-fluorenone (190 mg. 0.97 mmol) in ethyl acetate (5 mL). Next, chloroacetyl chloride (0.4 mL, 4.8 mmol) was added, and the reaction mixture was stirred at room temperature for 1 hour. The ethyl acetate layer was separated, and washed thoroughly with cold water. It was then dried under vacuum to give 2-N-chloroacetyl)-9-fluorenone (185 mg, 70%).

reactant | sodium bicarbonate | 5 mL | C([O-])(O)=O.[Na+]
reactant | 2-amino-9-fluorenone | 0.97 mmol, 190 mg | NC1=CC=2C(C3=CC=CC=C3C2C=C1)=O | C13H9NO
reactant | chloroacetyl chloride | 4.8 mmol, 0.4 mL | ClCC(=O)Cl | C2H2Cl2O
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
product | 9-fluorenone | 185 mg, 70% | C1=CC=CC=2C3=CC=CC=C3C(C12)=O | C13H8O
